US04454338
Synthesis of 6-amidino-2-naphthyl 4hydroxybenzoate:
To 50 ml of anhydrous DMF, were added 4.0 g of 6-amidino-2-naphthyl 4-benzyloxybenzoate methanesulfonate and 0.4 g of 10% Pd-C. The mixture was subjected to catalytic hydrogenation. After absorption of a stoichiometric amount of hydrogen, the reaction mixture was removed of Pd-C by filtration. After adding ethyl-ether to the stirred filtrate, the precipitate was collected by filtration and recrystallized from a DMF-ethylether mixture to obtain 2.4 g of a white powder of 6-amidino-2-naphthyl 4-hydroxybenzoate methanesulfonate.

reactant | 6-amidino-2-naphthyl 4-benzyloxybenzoate methanesulfonate | 4.0 g | CS(=O)(=O)O.C(C1=CC=CC=C1)OC1=CC=C(C(=O)OC2=CC3=CC=C(C=C3C=C2)C(N)=N)C=C1
catalyst | Pd-C | 0.4 g | [Pd] | Pd
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 6-amidino-2-naphthyl 4hydroxybenzoate | 2.4 g | OC1=CC=C(C(=O)OC2=CC3=CC=C(C=C3C=C2)C(N)=N)C=C1 | C18H14N2O3
